US05214143
Ethyl 2-(4-methylamino-6-trifluoromethoxy-1,3,5-triazin-2-ylaminocarbonylaminosulfonyl)benzoate
3.1 g (0.012 mol) of 2-carboethoxybenzenesulfonyl isocyanate in 3 ml of methylene chloride were added over the course of 10 minutes to a stirred mixture of 2.5 g (0.012 mol) of 2-amino-4-methylamino-6-trifluoromethoxy-1,3,5-triazine and 150 ml of methylene chloride at 22° C., and the mixture was stirred at 22° C. for 30 hours. It was then concentrated under reduced pressure, stirred with methyl tert-butyl ether and filtered off with suction. Further washing with methanol and drying resulted in 3.8 g (67.4% of theory) of the title compound of melting point 182°-184° C. (decomposition).

reactant | 2-carboethoxybenzenesulfonyl isocyanate | 0.012 mol, 3.1 g | C(=O)(OCC)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C10H9NO5S
reactant | 2-amino-4-methylamino-6-trifluoromethoxy-1,3,5-triazine | 0.012 mol, 2.5 g | NC1=NC(=NC(=N1)NC)OC(F)(F)F | C5H6F3N5O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(4-methylamino-6-trifluoromethoxy-1,3,5-triazin-2-ylaminocarbonylaminosulfonyl)benzoate | CNC1=NC(=NC(=N1)OC(F)(F)F)NC(=O)NS(=O)(=O)C1=C(C(=O)OCC)C=CC=C1 | C15H15F3N6O6S
